US06248740B1
Production of 2-[3-chloro-6-[3-[4-(diphenylmethyl) piperazino]propylamino]imidazo[1,2-b]pyridazin-2-yl]-2-methylpropionic acid
633 mg of ethyl 2-[3-chloro-6-[3-[4-(diphenylmethyl)piperazino]propylamino]imidazo[1,2-b]pyridazin-2-yl]-2-methylpropionate trihydrochloride was dissolved in 6 ml of ethanol; 2.31 ml of a 2 N aqueous solution of sodium hydroxide was added, followed by thermal refluxing for 1.5 hours. After cooling, the mixture was concentrated under reduced pressure; the residue was diluted with water and washed with ethyl acetate; the water layer was ajusted to pH 5 by the addition of 1 N hydrochloric acid. Methanol was added; the crystal precipitated was collected by filtration, washed with water-ethyl acetate and dried to yield 462 mg of the title compound.

reactant | ethyl 2-[3-chloro-6-[3-[4-(diphenylmethyl)piperazino]propylamino]imidazo[1,2-b]pyridazin-2-yl]-2-methylpropionate trihydrochloride | 633 mg | Cl.Cl.Cl.ClC1=C(N=C2N1N=C(C=C2)NCCCN2CCN(CC2)C(C2=CC=CC=C2)C2=CC=CC=C2)C(C(=O)OCC)(C)C
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | 6 ml | C(C)O | C2H6O
product | 2-[3-chloro-6-[3-[4-(diphenylmethyl) piperazino]propylamino]imidazo[1,2-b]pyridazin-2-yl]-2-methylpropionic acid | 462 mg | ClC1=C(N=C2N1N=C(C=C2)NCCCN2CCN(CC2)C(C2=CC=CC=C2)C2=CC=CC=C2)C(C(=O)O)(C)C | C30H35ClN6O2
